US07504397B2
(i) 4-(4-Bromo-imidazol-1-yl)-2-chloro-pyrimidine (51)
To a solution of 2,4-dichloropyrimidine (0.447 g, 3 mmol) in anhydrous DMF (4 ml) was added potassium carbonate (0.415 g, 3 mmol). The reaction mixture was cooled (0° C.) under an inert atmosphere before the addition of 4-bromo-1-H-imidazole (0.441 g, 3 mmol) as solution in DMF (2 ml). The reaction was then allowed to stir at this temperature for a further 3 hours whereupon water (3 ml) was added. The resultant white precipitate was removed from the mixture by filtration and washed with water before being dried to give the title compound as a white solid (0.18 g, 23%) which was suitably pure to be used without further purification. m/z (LC-MSW, ESP):259.2,261.2 (bromine isotopes) [M+H]+, R/T=3.47 mins.

reactant | 2,4-dichloropyrimidine | 3 mmol, 0.447 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 3 mmol, 0.415 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1-H-imidazole | 3 mmol, 0.441 g | BrC=1N=CNC1 | C3H3BrN2
reactant | water | 3 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(4-Bromo-imidazol-1-yl)-2-chloro-pyrimidine | 0.18 g, 23% | BrC=1N=CN(C1)C1=NC(=NC=C1)Cl | C7H4BrClN4
